US07507736B2
b) Ethyl 5-[1-(2,2,2-trifluoro-ethyl)-piperidin-4-yloxy]-1H-indole-2-carboxylate
The title compound was prepared in analogy to example 40d), from ethyl 5-hydroxyindole-2-carboxylate and 1-(2,2,2-trifluoro-ethyl)piperidin-4-ol, using diisopropyl azodicarboxylate instead of diethyl azodicarboxylate. Off-white solid. MS (m/z): 371.2 (M+H)+.

reactant | ethyl 5-hydroxyindole-2-carboxylate | OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H11NO3
reactant | 1-(2,2,2-trifluoro-ethyl)piperidin-4-ol | FC(CN1CCC(CC1)O)(F)F | C7H12F3NO
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | Ethyl 5-[1-(2,2,2-trifluoro-ethyl)-piperidin-4-yloxy]-1H-indole-2-carboxylate | FC(CN1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC)(F)F | C18H21F3N2O3
